US07816361B2
Step 1: Preparation of 3-Furan-2-yl-2,2-dimethyl-3-oxo-propionic acid ethyl ester
3-furan-2-yl-2-methyl-3-oxo-propionic acid ethyl ester (49 mg) was added sodium ethoxide (0.22 ml) and 0.5 ml ethanol. A solid precipitates. The solution was stirred at room temperature for 1 h, iodomethane was added and the suspension stirred at room temperature for 3 h. Concentration in vacuo and purification by HPLC gave the expected product.

reactant | 3-furan-2-yl-2-methyl-3-oxo-propionic acid ethyl ester | 49 mg | C(C)OC(C(C(=O)C=1OC=CC1)C)=O | C10H12O4
reactant | sodium ethoxide | 0.22 ml | [O-]CC.[Na+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 3-Furan-2-yl-2,2-dimethyl-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C=1OC=CC1)(C)C)=O | C11H14O4
